US07157604B2
A solution of 7-amino-9a-butyl-6-fluoro-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (243 mg, 0.845 mmol) in trifluoroacetic acid (1.7 mL) was treated with 2,3,5,6-tetrabromo-4-methyl-4-nitro-2,5-cyclohexadien-1-one (396 mg, 0.845 mmol). The resulting mixture was placed under a N2 atmosphere, sonicated briefly, and stirred at room temperature for 3 hours. The mixture was diluted with EtOAc (50 mL), washed successively with water, 5% NaHCO3 and brine, dried over MgSO4, filtered, and evaporated under vacuum to a brown oil (659 mg). The crude product was purified by flash chromatography on a Biotage 40S KP-Sil column, eluting with 10:1 hexanes-EtOAc. The product containing fractions were evaporated under vacuum to an orange gum (113 mg, 40%) which was lyophilized from benzene to provide 7-amino-9a-butyl-6-fluoro-4-methyl-8-nitro-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 7-amino-9a-butyl-6-fluoro-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.845 mmol, 243 mg | NC1=C(C=C2C3=C(C(CCC3(CC2=C1)CCCC)=O)C)F | C18H22FNO
reactant | 2,3,5,6-tetrabromo-4-methyl-4-nitro-2,5-cyclohexadien-1-one | 0.845 mmol, 396 mg | BrC=1C(C(=C(C(C1Br)([N+](=O)[O-])C)Br)Br)=O | C7H3Br4NO3
solvent | trifluoroacetic acid | 1.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 7-amino-9a-butyl-6-fluoro-4-methyl-8-nitro-1,2,9,9a-tetrahydro-3H-fluoren-3-one | NC1=C(C=C2C3=C(C(CCC3(CC2=C1[N+](=O)[O-])CCCC)=O)C)F | C18H21FN2O3
